US07612114B2
{5-(tert-Butyldimethylsilyloxy)-2-[1-(tert-butyldimethylsilyloxy)indan-5-yl]phenyl}[4-(2-piperidin-1-ylethoxy)phenyl]amine
Synthesized from 5-(tert-butyldimethylsilyloxy)-2-[1-(tert-butyldimethylsilyloxy)indan-5-yl]phenylamine (635 mg) and 1-[2-(4-bromophenoxy)ethyl]piperidine (385 mg) according to an analogous synthetic method to Example 116, the title compound (593 mg) was obtained.

reactant | 5-(tert-butyldimethylsilyloxy)-2-[1-(tert-butyldimethylsilyloxy)indan-5-yl]phenylamine | 635 mg | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(C1)N)C=1C=C2CCC(C2=CC1)O[Si](C)(C)C(C)(C)C | C27H43NO2Si2
reactant | 1-[2-(4-bromophenoxy)ethyl]piperidine | 385 mg | BrC1=CC=C(OCCN2CCCCC2)C=C1 | C13H18BrNO
product | {5-(tert-Butyldimethylsilyloxy)-2-[1-(tert-butyldimethylsilyloxy)indan-5-yl]phenyl}[4-(2-piperidin-1-ylethoxy)phenyl]amine | 593 mg | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(C1)NC1=CC=C(C=C1)OCCN1CCCCC1)C=1C=C2CCC(C2=CC1)O[Si](C)(C)C(C)(C)C | C40H60N2O3Si2
